US07192967B1
N-[4-(2,5-dioxo-4,4-diphenyl-imidazolidin-1-yl)-butyl-3-pyridin-3-yl-acrylamide (substance 12)
Batch size: 6.0 g (27.2 mmol) N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide, 7.1 g (27.2 mmol) triphenylphosphine, 6.9 g (27.2 mmol) 5,5-diphenylhydantoin and 4.3 ml (27.2 mmol) azodicarboxylic acid diethyl ester in 100 ml THF.

reactant | N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide | 27.2 mmol, 6.0 g | OCCCCNC(C=CC=1C=NC=CC1)=O | C12H16N2O2
reactant | triphenylphosphine | 27.2 mmol, 7.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5,5-diphenylhydantoin | 27.2 mmol, 6.9 g | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | azodicarboxylic acid diethyl ester | 27.2 mmol, 4.3 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(2,5-dioxo-4,4-diphenyl-imidazolidin-1-yl)-butyl-3-pyridin-3-yl-acrylamide | O=C1N(C(C(N1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCCC(C(=O)N)=CC=1C=NC=CC1 | C27H26N4O3
